US06953806B2
In analogy to the method described in example 12.1, trans-N-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide was reacted with (S)-2-hydroxymethyl-pyrrolidine in N,N-dimethylacetamide at room temperature to yield trans-N-{4-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-butoxymethyl]-cyclohexylmethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide as colorless solid, MS: 521 (MH+).

reactant | trans-N-[4-(4-bromo-butoxymethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | BrCCCCOC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C20H29BrF3NO3S
reactant | (S)-2-hydroxymethyl-pyrrolidine | OC[C@H]1NCCC1 | C5H11NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-N-{4-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-butoxymethyl]-cyclohexylmethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | OC[C@H]1N(CCC1)CCCCOC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C25H39F3N2O4S
